US04503063
3-Cyano-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol (2 diastereoisomeric forms)
Propionitrile (1.21 g) in dry tetrahydrofuran (50 ml) was cooled to -72° C. A solution of n-butyllithium in n-hexane (14.2 ml, 1.55 molar) was then slowly added while maintaining the temperature of the reaction mixture at -45° C. or below. After stirring for about 30 minutes, 2-(1H-1,2,4-triazol-1-yl)-2',4'-dichloroacetophenone (2.56 g) in dry tetrahydrofuran (THF) (50 ml) was added slowly with stirring over a 20 minute period, the temperature of the mixing being maintained at -70° C. Stirring was continued at this temperature for one hour and then at -10° for a half hour, then glacial acetic acid (10 ml) in dry THF (15 ml) was added. The reaction mixture was allowed to warm to room temperature (20° C.), adjusted to pH 8 with solid sodium bicarbonate, and extracted with ethyl acetate (3×75 ml). The combined organic extracts were washed three times with water, dried (MgSO4), evaporated and ethyl ether (30 ml) was added to the residue, yielding a white crystalline solid and a yellow solution. The solid was filtered off, dissolved in a small volume of methylene chloride, and loaded onto an 18 g. flash chromatography column of Merck's "Kieselgel 60" (Trade Mark) 230-400 mesh silica in ether (11×2 cm. diameter). Elution was carried out using 5% (by volume) acetone in ether at one p.s.i. (4.88 kg/m2). "Diastereoisomer 1" of the title compound was eluted first, 0.79 g, m.p. 178°-180° C.

reactant | Propionitrile | 1.21 g | C(CC)#N | C3H5N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(1H-1,2,4-triazol-1-yl)-2',4'-dichloroacetophenone | 2.56 g | N1(N=CN=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C10H7Cl2N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.55 molar, 14.2 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-Cyano-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | C(#N)C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl)C | C13H12Cl2N4O
